US07745646B2
A solution of lithium diisopropylamide (7.0 mL, 2.0 M heptane/THF, 14.0 mmol) was added to a solution of 3,4-dichloropyridine (1.88 g, 12.7 mmol) and anhydrous THF (30 mL) at −78° C. under N2. After 1 h, bromine (0.71 mL, 14.0 mmol) was added. After an additional 30 min, the reaction was allowed to warm to rt and maintained for 30 min. The mixture was poured into water, extracted with EtOAc, dried, filtered, concentrated, and purified by silica gel chromatography (0→30% EtOAc/hexanes) to give 2-bromo-3,4-dichloropyridine after recrystallization from methanol. MS (ESI): 225.9.

reactant | lithium diisopropylamide | 14.0 mmol, 2.0 M, 7.0 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3,4-dichloropyridine | 12.7 mmol, 1.88 g | ClC=1C=NC=CC1Cl | C5H3Cl2N
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | bromine | 14.0 mmol, 0.71 mL | BrBr | Br2
solvent | water | O | H2O
product | 2-bromo-3,4-dichloropyridine | BrC1=NC=CC(=C1Cl)Cl | C5H2BrCl2N
